US08058461B2
13b): (5-tert-Butyl-2-methyl-1H-inden-7-yl)(chloro)dimethylsilane
To 6.68 g (0.278 mol) of magnesium turnings in 200 mL of dry THF 5.26 g (0.028 mol) of 1,2-dibromoethane was added dropwise for 30 minutes. This mixture was stirred for additional 30 minutes, and then a solution of 66.3 g (0.250 mol) of 5-tert-butyl-2-methyl-7-bromo-1H-indene in 900 mL of THF was added dropwise by vigorous stirring in such rate that the mixture is refluxed. Then, this mixture was additionally refluxed for 30 minutes. Further on, to a solution of 113 g (0.875 mol) of dichlorodimethylsilane in 100 mL of THF the above-obtained solution of the Grignard reagent was added dropwise by vigorous stirring at room temperature using a water bath to cool the reaction mixture. The resulting mixture was additionally stirred for 12 hours at ambient temperature, evaporated to dryness, and then 200 mL of dry ether was added. The obtained suspension was stirred for 20 minutes at room temperature and then filtered through glass frit (G3). The precipitate was additionally washed by 2×100 mL of ether. The combined filtrate was evaporated to dryness, and the residue was rectificated in vacuum, b.p. 147° C.-155° C./1 mm Hg. Yield 50.1 g (72%) of the title product. 1H NMR (CD2Cl2): δ 7.46 (s, 1H, 6-H), 7.43 (s, 1H, 4-H), 6.55 (s, 1H, 3-H), 3.47 (s, 2H, 1,1′-H), 2.22 (s, 3H, 2-Me), 1.41 (s, 9H, tBu), 0.82 (s, 6H, SiMe2). Anal. Calc. for C16H23ClSi: C, 68.91; H, 8.31%. Found: C, 69.13; H, 8.58%.

reactant | magnesium | 0.278 mol, 6.68 g | [Mg] | Mg
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 5-tert-butyl-2-methyl-7-bromo-1H-indene | 0.250 mol, 66.3 g | C(C)(C)(C)C=1C=C2C=C(CC2=C(C1)Br)C | C14H17Br
reactant | dichlorodimethylsilane | 0.875 mol, 113 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | THF | 900 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 0.028 mol, 200 mL, 5.26 g | C1CCOC1 | C4H8O
product | (5-tert-Butyl-2-methyl-1H-inden-7-yl)(chloro)dimethylsilane | C(C)(C)(C)C=1C=C2C=C(CC2=C(C1)[Si](C)(C)Cl)C | C16H23ClSi
